US07572820B2
4-Chloro-2-(difluoromethyl)-1-(2-pyridinylmethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 39 from 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile and 2-(chloromethyl)pyridine hydrochloride. MS (ESI) m/z 318.07 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 2-(chloromethyl)pyridine hydrochloride | Cl.ClCC1=NC=CC=C1
product | 4-Chloro-2-(difluoromethyl)-1-(2-pyridinylmethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NC=CC=C1)C(F)F | C16H10ClF2N3
